US06479527B1
Ethyl 4-(3,4-dichlorobenzyl)thieno[3,2-b]pyrrole-5-carboxylate (Compound No 7 in Table 1)
Sodium hydride (32 mg, 60%), was added to a solution of ethyl 4H-thieno[3,2-b]pyrrole-5-carboxylate (0.13 g) (from Preparation 4) and the reaction stirred for 30 minutes. 3,4-Dichlorobenzyl bromide (0.22 g) was added and stirring continued for a further 2 hours. The reaction was quenched by addition of water and extracted with ether. Combined organic extracts were dried (MgSO4) and concentrated and the residue purified by column chromatogaphy using isohexane-5% ethyl acetate as eluent to give the product as a yellow solid (0.15 g, 64%), NMR d(DMSO) 1.24 (3H, t), 4.22 (2H, q), 5.73 (2H, s), 6.63 (1H, d), 6.98 (1H, dd), 7.25 (2H, m), 7.37 (1H, s), 7.55 (1H, d); M/z (+) 354 (M+), 214, 158, 129.

reactant | Sodium hydride | 32 mg | [H-].[Na+]
reactant | ethyl 4H-thieno[3,2-b]pyrrole-5-carboxylate | 0.13 g | S1C=CC=2NC(=CC21)C(=O)OCC | C9H9NO2S
reactant | 3,4-Dichlorobenzyl bromide | 0.22 g | ClC=1C=C(CBr)C=CC1Cl | C7H5BrCl2
product | Ethyl 4-(3,4-dichlorobenzyl)thieno[3,2-b]pyrrole-5-carboxylate | 0.15 g, 64% | ClC=1C=C(CN2C3=C(C=C2C(=O)OCC)SC=C3)C=CC1Cl | C16H13Cl2NO2S
